US04073942
7 gm of 3,5-dibromo-salicylaldehyde, 17.5 gm of tert. butylamine and 7.7 gm of formic acid were heated for 6 hours at 70°-80° C. Subsequently, the reaction mixture was admixed with aqueous 2 N ammonia, vigorously shaken, and the precipitate formed thereby was sucked off. The residue was dissolved in ethanol, acidified with ethanolic hydrochloric acid and admixed with ether in order to crystallize the product out. N-tert.butyl-3,5-dibromo-2-hydroxy-benzylamine hydrochloride, m.p. 216°-220° C (decomp.), was obtained after recrystallization from absolute ethanol/ether.

reactant | 3,5-dibromo-salicylaldehyde | 7 gm | BrC1=C(C(C=O)=CC(=C1)Br)O | C7H4Br2O2
reactant | tert. butylamine | 17.5 gm | C(C)(C)(C)N | C4H11N
reactant | ammonia | 2 N | N | H3N
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
solvent | formic acid | 7.7 gm | C(=O)O | CH2O2
product | N-tert.butyl-3,5-dibromo-2-hydroxy-benzylamine hydrochloride | Cl.C(C)(C)(C)NCC1=C(C(=CC(=C1)Br)Br)O | InChI=1S/C11H15Br2NO.ClH/c1-11(2,3)14-6-7-4-8(12)5-9(13)10(7)15;/h4-5,14-15H,6H2,1-3H3;1H
